US04973353
In 10 ml of acetone, 1.157 g (3 mmol) of 4-[(3-butoxymethyl-4-chlorophenyl)hydrazono]-2-phenyl-2-oxazolin-5-one synthesized in the similar way to Synthesis Examples 1-3 was suspended, the suspension being then added with 0.6 ml of concentrated ammonia water and stirred at room temperature for 30 minutes. The resulting solution was made acid by adding 0.6 ml of concentrated hydrochloric acid and further stirred at 50° C. for 30 minutes. Acetone was distilled off and the residue was extracted by adding benzene and water. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvents were distilled off to obtain a crude product. This crude product was purified by silica gel chromatography using hexane/ethyl acetate (1/2, v/v) as developing solvent and further recrystallized to obtain 1.087 g (94.2% yield) of 1-(3-butoxymethyl-4-chlorophenyl)-5-phenyl-1H-1,2,4-triazole-3-carboxamide (m.p. 96°-98° C.).

reactant | 4-[(3-butoxymethyl-4-chlorophenyl)hydrazono]-2-phenyl-2-oxazolin-5-one | 3 mmol, 1.157 g | C(CCC)OCC=1C=C(C=CC1Cl)NN=C1N=C(OC1=O)C1=CC=CC=C1 | C20H20ClN3O3
reactant | ammonia water | 0.6 ml | O.N
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1-(3-butoxymethyl-4-chlorophenyl)-5-phenyl-1H-1,2,4-triazole-3-carboxamide | 1.087 g, 94.2% yield | C(CCC)OCC=1C=C(C=CC1Cl)N1N=C(N=C1C1=CC=CC=C1)C(=O)N | C20H21ClN4O2
